US09359362B2
Methyl {(7R)-6-cyano-7-(4-cyanophenyl)-5-methyl-4-[3-(trifluoromethyl)phenyl]-4,7-dihydro-[1,2,4]triazolo[1,5-a]pyrimidin-2-yl}carbamate
Under an atmosphere of argon protective gas, (7R)-2-amino-7-(4-cyanophenyl)-5-methyl-4-[3-(trifluoromethyl)phenyl]-4,7-dihydro[1,2,4]triazolo[1,5-a]pyrimidine-6-carbonitrile (30 mg, 71 μmol) was dissolved in a mixture of abs. THF (3 ml) and abs. pyridine (57.5 μl). At room temperature, pyridine (5×57 μl) and methyl chloroformate (5×33.6 mg, 5×356 μmol; 25 eq.) were added in a plurality of portions. The mixture was then heated at 80° C. for 12 h. Once HPLC analysis showed substantial conversion, the reaction mixture was concentrated under reduced pressure and purified by preparative HPLC (Kromasil C18 column, 30×250 mm; mobile phase: acetonitrile-water-0.1% TFA). After lyophilization, the product was obtained as a solid (31.1 mg, 91% of theory).

reactant | (7R)-2-amino-7-(4-cyanophenyl)-5-methyl-4-[3-(trifluoromethyl)phenyl]-4,7-dihydro[1,2,4]triazolo[1,5-a]pyrimidine-6-carbonitrile | 71 μmol, 30 mg | NC1=NN2C(N(C(=C([C@H]2C2=CC=C(C=C2)C#N)C#N)C)C2=CC(=CC=C2)C(F)(F)F)=N1 | C21H14F3N7
reactant | THF | 3 ml | C1CCOC1 | C4H8O
reactant | methyl chloroformate | 356 μmol, 33.6 mg, 25 eq. | ClC(=O)OC | C2H3ClO2
solvent | pyridine | 57 μl | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 57.5 μl | N1=CC=CC=C1 | C5H5N
product | Methyl {(7R)-6-cyano-7-(4-cyanophenyl)-5-methyl-4-[3-(trifluoromethyl)phenyl]-4,7-dihydro-[1,2,4]triazolo[1,5-a]pyrimidin-2-yl}carbamate | C(#N)C1=C(N(C=2N([C@@H]1C1=CC=C(C=C1)C#N)N=C(N2)NC(OC)=O)C2=CC(=CC=C2)C(F)(F)F)C | C23H16F3N7O2
